* Schematics Netlist *



M_MB         $N_0001 $N_0001 $N_0002 $N_0002 MODP  
+ L=1.4u  
+ W=19.6u         
M_M7         $N_0003 $N_0001 $N_0002 $N_0002 MODP  
+ L=1.4u  
+ W=37.8u         
C_Cc         $N_0004 $N_0003  9.1p  
M_M5         $N_0005 $N_0001 $N_0002 $N_0002 MODP  
+ L=1.4u  
+ W=37.8u         
M_M3         $N_0006 $N_0006 0 0 MODN  
+ L=1.4u  
+ W=7u         
M_M1         $N_0006 $N_0007 $N_0005 $N_0005 MODP  
+ L=1.4u  
+ W=19.6u         
V_Vi1         $N_0007 $N_0008 DC 0V AC 1u 
M_M4         $N_0009 $N_0006 0 0 MODN  
+ L=1.4u  
+ W=7u         
R_Rc         $N_0009 $N_0004  6.64k  
V_Vi2         $N_0010 $N_0008 DC 0V AC 1u 180
M_M2         $N_0009 $N_0010 $N_0005 $N_0005 MODP  
+ L=1.4u  
+ W=19.6u         
V_Vcm         $N_0008 0 0.2
R_Rb         0 $N_0001  242.3k  
V_Vdd         $N_0002 0 3.3
M_M6         $N_0003 $N_0009 0 0 MODN  
+ L=1.4u  
+ W=14u         
C_Cl         0 $N_0003  5p  
